* tb_ldo_status -- power-good and current-limit behaviour.
*
* PGOOD should assert while the output is in regulation and deassert when it is not.
* OC should assert once the pass current exceeds the limit, and the limiter should THROTTLE
* the output rather than merely reporting -- so vout must fold back, not keep rising with
* the load.
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_cmomf.lib
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include $PDK_ROOT/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.global sub!
.include ../sim/netlist/ldo_capless.spice

Vin     vin     0 3.3
Vrefbg  vref_bg 0 1.2
Vss     vss     0 0
Vsub    sub!    0 0
Vddd    vddd    0 1.2
Ven     en      0 1.2
Vilim   ilim_en 0 1.2
Ibias   0       ibias DC 1u   $ harness supplies 1 uA (ibias1u_*); multiplied 10x on-slot
Iload   vout    0 DC 1m
Vt0 vtrim0 0 0
Vt1 vtrim1 0 0
Vt2 vtrim2 0 0
Vt3 vtrim3 0 0
Vt4 vtrim4 0 1.2

.control
  op
  echo "=== in regulation ==="
  print v(vout) v(pgood) v(oc)
  echo "=== disabled: output collapses, PGOOD must deassert ==="
  alter Ven dc = 0
  alter Iload dc = 0
  op
  print v(vout) v(pgood)
  alter Ven dc = 1.2
  alter Iload dc = 1m
  echo "=== load sweep 0 to 120 mA: OC and fold-back ==="
* 1 mA steps, not 5 mA. The trip point is a published specification and a 5 mA grid
* cannot resolve it -- OC read low at 40 mA and high at 60 mA, which is consistent with
* any trip in between, and two different figures were published off that same curve.
  dc Iload 0 120m 1m
  meas dc vo_010 FIND v(vout) AT=10m
  meas dc vo_040 FIND v(vout) AT=40m
  meas dc vo_060 FIND v(vout) AT=60m
  meas dc vo_100 FIND v(vout) AT=100m
  meas dc oc_010 FIND v(oc) AT=10m
  meas dc oc_040 FIND v(oc) AT=40m
  meas dc oc_060 FIND v(oc) AT=60m
  meas dc oc_100 FIND v(oc) AT=100m
* The trip current itself, derived by the simulator rather than read off the sweep by
* hand. Declared in report.py so it cannot silently stop being taken.
  meas dc i_trip WHEN v(oc)=0.6
  echo "=== ILIM_EN low: limiter disabled, OC must stay low ==="
  alter Vilim dc = 0
  alter Iload dc = 100m
  op
  print v(oc) v(vout)
.endc
.end
